US03995052
1-Oxoindane-2-acetic acid ethyl ester
A hexane solution containing 0.41 mole of butyllithium is diluted with 1 l. of dry ether. A solution of 1-indanone (50.3 g, 0.38 mole) in 500 ml of dry ether is added dropwise at -10° C with stirring. After the addition is completed, the reaction mixture is stirred for 30 min. A solution of ethyl bromoacetate (63 g) in ether (100 ml) is added slowly from a dropping funnel. The reaction is stopped immediately by careful addition of saturated brine solution. The organic layer is separated and washed several times with fresh portions of the same brine solution. Removal of the ether gives a viscous product which is subjected to chromatography on silica gel using hexane and hexane-benzene (1:1) as eluting solvents. A homogeneous fraction is identified by spectral features. The title compound is more polar than 1-indanone on tlc plate (silica-chloroform), Rf values being 0.65 and 0.55 respectively, νmaxCHCl3 broad peaks at 1765 and 1725 cm-1 , 1640, 1615, 1505 and 1495 cm-1.

reactant | hexane | CCCCCC | C6H14
reactant | butyllithium | 0.41 mole | C(CCC)[Li]
reactant | 1-indanone | 0.38 mole, 50.3 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | ethyl bromoacetate | 63 g | BrCC(=O)OCC | C4H7BrO2
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | brine | [Cl-].[Na+].O
solvent | hexane benzene | CCCCCC.C1=CC=CC=C1
product | 1-Oxoindane-2-acetic acid ethyl ester | C(C)OC(CC1C(C2=CC=CC=C2C1)=O)=O | C13H14O3
